### PR TITLE
Formalisation of the statements of all Bluebell rules except Program WP rules and Derived WP rules

### PR DESCRIPTION
**Pull request by Coda-Coda**
This PR includes a formalisation of the statements of all Bluebell rules _except_ Program WP rules and Derived WP rules, along with all the underlying aspects needed for expressing the statements of these rules. The rules correspond to those in Fig. 9, Fig. 10 (except the Program WP rules), and Fig. 11 of the Bluebell paper.

It also includes proofs of some of these rules, which have primarily been proved using AI (indicated as appropriate by an `Assisted-by: ...` at the end of related commit messages).

The remaining rules yet to be formalised require the integration of VCV-io before they are able to be expressed, and are left for a future PR.

### CODE REVIEW

File: src/Bluebell/Assertion.lean [hunk 1]
```diff
@@ -0,0 +1,2955 @@
...
+
+-- ### SURE-MERGE
+
+theorem Sure_Merge
+  {A : Type*}
+  {E₁ E₂ : (Var → Val) → Prop} {i : I}
+  : ⌈E₁⟨i⟩⌉ ∗ ⌈E₂⟨i⟩⌉ ⊣⊢ ⌈(fun s => E₁ s ∧ E₂ s)⟨i⟩⌉ := by
+    constructor
+    · exact Sure_Merge_fwd
+    · sorry -- TODO: Rule SURE-MERGE proof (backwards direction)
```
Comment (alexanderlhicks) [inline src/Bluebell/Assertion.lean:1906]: Blocking: this exported rule is currently proved by `sorry`, so it contributes `sorryAx` to the trusted base. The corresponding paper rule is `sure-merge` (`paper/section/appendix_rules.tex:164–170`), and the paper states that these rules are semantic lemmas with soundness proofs (`paper/section/appendix_rules.tex:133–139`). Please provide the Lean proof and verify with `#print axioms Sure_Merge` that it is axiom-clean. The same check is needed for the other 24 admitted rules listed in the review summary.

File: src/Bluebell/Assertion.lean [hunk 2]
```diff
@@ -0,0 +1,2955 @@
...
+  comp : ∀ i, (P i).compatiblePerm (perm i)
+
+def ownIndexedPSpPm (P : I → PSp (Var → Val)) (p : IxCompatiblePermission P)
+  : bProp I Var Val :=
+  iprop(own (fun i ↦ ⟨⟨P i, p.perm i⟩, p.comp i⟩) ∧ ⌜∀ i : I, (P i).isSome⌝)
+
+def ownPSp (P : I → PSp (Var → Val)) : bProp I Var Val :=
+  iprop(∃ p : IxCompatiblePermission P, ownIndexedPSpPm P p)
+
+def almostMeasurable {A : Type*} (E : (Var → Val) → A) (P : PSp (Var → Val)) : Prop :=
```
Comment (alexanderlhicks) [inline src/Bluebell/Assertion.lean:657]: Please establish correspondence with the paper definition before relying on this as the assertion-level notion of almost-measurability. The paper defines an event by measurable sandwiching, `∃ E₁ E₂ ∈ σ, E₁ ⊆ E ⊆ E₂ ∧ μ(E₁)=μ(E₂)`, and defines function almost-measurability pointwise over all fibers (`paper/section/logic.tex:361–379`, `def:almost-meas`). This Lean definition uses `AEMeasurable`; that may be equivalent under additional assumptions, but the equivalence is not currently proved for the generic spaces here. Either implement the paper definition directly or add and test the required equivalence theorem.

File: src/Bluebell/Assertion.lean [hunk 3]
```diff
@@ -0,0 +1,2955 @@
...
+
+notation "⟦" t "⟧" μ => hyperTermSemantics t μ
+
+def hyperTermReferences (t : I → Option (PSpPm Var Val → PSpPm Var Val)) : Set I :=
+  {x | (t x).isSome}
+
+/-- Short for "domain" -/
+abbrev dom (t : I → Option (PSpPm Var Val → PSpPm Var Val)) := hyperTermReferences t
+
+def wp {Var Val : Type*}
```
Comment (alexanderlhicks) [inline src/Bluebell/Assertion.lean:718]: Please add a correspondence theorem for this WP definition. The paper quantifies over a distribution on the full hyper-store and defines `a ≤ μ₀` by embedding it with full permissions (`paper/section/logic.tex:765–785`, `def:wp`; summarized also in `paper/section/appendix_rules.tex:72–83`). This implementation instead quantifies over `IndexedPSpPm`, carries an explicit frame `c`, and adds validity conditions on `μ₀` and `b`. Those may form a sound reformulation, but the equivalence/refinement to the paper semantics is currently undocumented and unproved. Please either formalize the paper definition or prove the exact correspondence under the intended model assumptions.

File: src/Bluebell/MeasureOnSpace.lean [hunk 4]
```diff
@@ -0,0 +1,1696 @@
...
+    induction hv with
+    | basic s hs =>
+      obtain ⟨w, hw, rfl⟩ := hs
+      rw [f.injective.preimage_image]
+      exact MeasurableSpace.measurableSet_generateFrom hw
+    | empty => simp
+    | compl s _ ih => rw [Set.preimage_compl]; exact ih.compl
+    | iUnion g _ ih => rw [Set.preimage_iUnion]; exact MeasurableSet.iUnion ih
+
+def PSpace.compatiblePerm
```
Comment (alexanderlhicks) [inline src/Bluebell/MeasureOnSpace.lean:1489]: The paper defines compatibility by existence of a factorization `psp = psp' × Triv(S → Val)`, where `S` is exactly the set of zero-permission variables (`paper/section/logic.tex:182–200`, definition `Compatibility`). This definition instead uses closure under individual `Function.update`s. That may be equivalent for finite `Var`, but it is not definitionally the paper definition and may be weaker for infinite variable sets. Please either use the factorization definition or prove the equivalence with explicit assumptions on `Var`, `Val`, and the probability-space representation.

File: src/Bluebell/Assertion.lean [hunk 5]
```diff
@@ -0,0 +1,2955 @@
...
+-- ### C-WP-SWAP
+
+-- New variant of CP-WP-SWAP
+theorem C_WP_Swap {A : Type*} [Countable A]
+  {μ : PMF A}
+  {t : I → Option (PSpPm Var Val → PSpPm Var Val)}
+  {Q : A → bProp I Var Val} {i : I} {E : (Var → Val) → A}
+  :
+  𝒞⟨μ⟩ v; (⌈(fun s => E s = v)⟨i⟩⌉ ∗ wp t (Q v)) ⊢ wp t (𝒞⟨μ⟩ v; (⌈(fun s => E s = v)⟨i⟩⌉ ∗ Q v)) := by
+    sorry -- TODO: Rule C-WP-SWAP proof (spec not yet reviewed)
```
Comment (alexanderlhicks) [inline src/Bluebell/Assertion.lean:2406]: This is a new statement rather than the `c-wp-swap` rule in the paper. The paper rule is `C μ v.(WP t Q(v) ∧ ownall) ⊢ WP t (C μ v.Q(v))` (`paper/section/appendix_rules.tex:336–342`, rule `c-wp-swap`). `ownall` is defined in `paper/section/casestudies.tex:86–92`, and the paper explicitly says that omitting it is unsound in the current model (`paper/section/casestudies.tex:199–202`). The explicit equality frame here may be intended to encode the needed ownership, but that equivalence and the soundness of this generalized statement are not shown. Please either formalize the paper rule or document/prove this new variant, including its relationship to `ownall`, then remove the `sorry`.

File: src/Bluebell/Assertion.lean [hunk 6]
```diff
@@ -0,0 +1,2955 @@
...
+  ⊢ (fun s => (E₁ s, E₂ s))⟨i⟩ ~ (μ₁ ⊗ μ₂) := by
+    sorry -- TODO: Rule PROD-UNSPLIT proof
+
+-- ## Joint conditioning
+
+-- ### C-FUSE
+
+-- #### C-FUSE: Helper definition
+
+def fusion {A B : Type*} (μ : PMF A) (κ : A → PMF B) : PMF (A × B) :=
```
Comment (alexanderlhicks) [inline src/Bluebell/Assertion.lean:2687]: The paper defines fusion pointwise by `(π fuse κ)(v,w)=π(v)κ(v)(w)` and separately proves its equivalence to the bind/return construction (`paper/section/appendix_definitions.tex:58–88`). It also requires the splitting lemma `lm:fuse-split` (`paper/section/appendix_definitions.tex:92–100`). Please add the corresponding Lean theorem(s), identify the existing counterpart if already present, and use them to validate `C_Fuse`, `C_Swap`, and the product rules against the paper semantics.

File: src/Bluebell/Assertion.lean [hunk 7]
```diff
@@ -0,0 +1,2955 @@
...
+
+theorem RL_Convex {α : Type} {X : Set (I × Var)} {μ : PMF α} {R : Set (X → Val)} :
+  𝒞⟨μ⟩ v; ⌊R⌋ ⊢ ⌊R⌋ := by
+    sorry -- TODO: Rule RL-CONVEX proof
+
+-- ### RL-MERGE
+
+theorem RL_Merge {X : Set (I × Var)} {R₁ R₂ : Set (X → Val)} :
+  ⌊R₁⌋ ∗ ⌊R₂⌋ ⊢ ⌊ R₁ ∩ R₂ ⌋ := by
+    sorry -- TODO: Rule RL-SURE-MERGE proof
```
Comment (alexanderlhicks) [inline src/Bluebell/Assertion.lean]: This statement is more restrictive than the paper's `rl-merge` rule. The paper permits `R₁` and `R₂` over different variable sets `X₁` and `X₂`, and defines their conjunction over `X₁ ∪ X₂` using restriction (`paper/section/logic.tex:741–750`; `paper/section/appendix_rules.tex:583–589`, rule `rl-merge`). Please generalize this theorem to the paper formulation or explicitly name it as a same-`X` specialization and add the general rule.

File: src/Bluebell/Assertion.lean [hunk 8]
```diff
@@ -0,0 +1,2955 @@
...
+
+structure IxCompatiblePermission (P : I → PSp (Var → Val)) where
+  perm : I → Permission Var
+  comp : ∀ i, (P i).compatiblePerm (perm i)
+
+def ownIndexedPSpPm (P : I → PSp (Var → Val)) (p : IxCompatiblePermission P)
+  : bProp I Var Val :=
+  iprop(own (fun i ↦ ⟨⟨P i, p.perm i⟩, p.comp i⟩) ∧ ⌜∀ i : I, (P i).isSome⌝)
+
+def ownPSp (P : I → PSp (Var → Val)) : bProp I Var Val :=
```
Comment (alexanderlhicks) [inline src/Bluebell/Assertion.lean:654]: Please account explicitly for the paper's expectation, probability, permission, and permission-refinement assertions. They are defined after distribution ownership in `paper/section/logic.tex:428–490`, including `expect`, `prob`, `perm`, and `P withp π`. I found lower-level distribution/ownership constructions here but not direct counterparts for the full vocabulary. Please add them or state clearly in the PR description that they are intentionally out of scope.

File: src/Bluebell/MeasureOnSpace.lean [hunk 9]
```diff
@@ -0,0 +1,1696 @@
...
+  aesop
+
+lemma inter_mem_generator
+  (hu : MeasurableSet[p.ms] u) (hv : MeasurableSet[q.ms] v) :
+  u ∩ v ∈ generator p q := by
+  use u, v
+
+attribute [local aesop safe apply] MeasurableSpace.measurableSet_generateFrom
+
+theorem MeasureOnSpace.generateFrom_generator_eq_sum :
```
Comment (alexanderlhicks) [inline src/Bluebell/MeasureOnSpace.lean:357]: Please add a paper-to-Lean coverage table for the supporting measure declarations. The paper includes `thm:countable-partition-generated` (`paper/section/appendix_measure.tex:34`), `lemma:sigma-alg-representation` (`:93`), `lemma:partition-order` (`:139`), `lemma:bind-extend` (`:161`), `lemma:product-algebra` (`:242`), `lemma:indep-prod-exists` (`:289`), and `lemma:fibre-prod-exists` (`:556`). If these are discharged by existing Lean instances or lemmas, identify those declarations and add correspondence tests; otherwise, please add the missing results or narrow the claimed scope.

File: src/Bluebell/Assertion.lean [hunk 10]
```diff
@@ -0,0 +1,2955 @@
...
+-- ### C-FRAME
+
+theorem C_Frame {A : Type*} {μ : PMF A} {P : bProp I Var Val} {K : A → bProp I Var Val} :
+  P ∗ 𝒞⟨μ⟩ v; K v ⊢ 𝒞⟨μ⟩ v; (P ∗ (K v)) := by
+    sorry -- TODO: Rule C-FRAME proof (spec not yet reviewed)
+
+-- ### C-UNIT-L
+
+-- TODO: Rule C-UNIT-L (spec not yet reviewed)
+theorem C_Unit_L {A : Type*} [Countable A] {v₀ : A} {K : A → bProp I Var Val} :
```
Comment (alexanderlhicks) [inline src/Bluebell/Assertion.lean:2008]: The paper's `c-unit-l` rule has no explicit countability premise (`paper/section/appendix_rules.tex:218–222`). This Lean statement adds `[Countable A]`, apparently because the current `PMF.dirac` representation requires it. Please determine whether this is an unavoidable representation limitation or an accidental restriction. If it is intentional, document the restricted theorem and its relationship to the paper statement.

File: src/Bluebell/Assertion.lean [hunk 11]
```diff
@@ -0,0 +1,2955 @@
...
+  let R' : Set (X' → Val) :=
+    R.image
+      (fun s x ↦ s ⟨x.1.2, by aesop⟩)
+  ⌊R'⌋ ⊢ ⌈(fun σ ↦ ∃ σ' ∈ R, ∀ v : X, σ v.1 = σ' v)⟨i⟩⌉ := by
+    simp only [relationalLifting]
+    sorry -- TODO: Rule RL-UNARY proof
+
+-- ### RL-EQ-DIST
+
+theorem RL_Eq_Dist {A : Type*} [Inhabited A] [Inhabited X] {X : Set (I × Var)} {μ : PMF A} {ix jy : X} :
```
Comment (alexanderlhicks) [inline src/Bluebell/Assertion.lean]: `RL_Eq_Dist` appears to contain unused parameters `{A}`, `[Inhabited A]`, `[Inhabited X]`, and `{μ : PMF A}`. The paper rule requires only `i ≠ j` and the equality relation (`paper/section/appendix_rules.tex:568–575`, rule `rl-eq-dist`). Please remove the unused parameters or explain their semantic role, and make the Lean statement expose the same essential hypotheses as the paper rule.

File: src/Bluebell/OURA.lean [hunk 12]
```diff
@@ -0,0 +1,432 @@
...
+        aesop
+      have := h (a.out * b.out) (by aesop)
+      aesop
+    rw [← ha] at hx
+    have : R x a.out := Quotient.exact (by assumption)
+    have := hvalid a.out x (R.symm (by assumption)) (by assumption)
+    assumption
+}
+
+instance OrderedUnitalResourceAlgebra.instUCMRA
```
Comment (alexanderlhicks) [inline src/Bluebell/OURA.lean:420]: This declaration emits a duplicate namespace warning (`OrderedUnitalResourceAlgebra.OrderedUnitalResourceAlgebra.instUCMRA`). Please remove the redundant namespace qualification or rename the declaration so the build is warning-clean.

File: src/Bluebell/Assertion.lean [hunk 13]
```diff
@@ -0,0 +1,2955 @@
...
+    rw [← ValidIndexedPSpPm.mu_apply_eq_PSpace m i, h_bind_all _ ⟨i, rfl⟩]
+    exact key
+
+-- ### DIST-CONVEX
+
+theorem Dist_Convex {A : Type*}
+  {μ μ' : PMF A}
+  {i : I} {E : (Var → Val) → A}
+  :
+  𝒞⟨μ⟩ v; E⟨i⟩ ~ μ' ⊢ E⟨i⟩ ~ μ' := by
```
Comment (alexanderlhicks) [inline src/Bluebell/Assertion.lean:2767]: The binder `v` is unused in `Dist_Convex`. Please remove it or rename it to `_v` so the intended statement is clear and the warning is eliminated.

File: src/Bluebell/Assertion.lean [hunk 14]
```diff
@@ -0,0 +1,2955 @@
...
+        filter_upwards [ h ] with s hs using by simpa using hs;
+      convert Measure.map_congr hE_true using 1;
+      · convert ValidPSpPm.map_μ_eq_map_PSpace_μ ⟨ m.val i, m.property i ⟩ E using 1;
+      · ext s hs; simp +decide only [PMF.dirac, Measure.toPMF_toMeasure,
+        MeasurableSpace.measurableSet_top, Measure.dirac_apply', ValidIndexedPSpPm.PSpace,
+        PSp.compatiblePerm, OrderedUnitalResourceAlgebra.instValidForall.eq_1, ValidPSpPm.PSpace,
+        ValidPSpPm, ValidPSp.PSpace, ValidPSp, Measure.map_const, PSpace.isProbability,
+        measure_univ, one_smul] ;
+
+omit [Finite Var] [Countable Val] in
```
Comment (alexanderlhicks) [inline src/Bluebell/Assertion.lean:1370]: Please remove the trailing whitespace on this line so `git diff --check` is clean.

File: src/Bluebell.lean [hunk 15]
```diff
@@ -1,11 +1,3 @@
...
-import Bluebell.Algebra.PSpPm
-import Bluebell.Algebra.Permission
-import Bluebell.Algebra.Probability
-import Bluebell.Core.Indexed
-import Bluebell.Logic.JointCondition
-import Bluebell.Logic.Ownership
-import Bluebell.Logic.WeakestPre
-import Bluebell.ProbabilityTheory.Coupling
-import Bluebell.ProbabilityTheory.IndepProduct
+import Bluebell.Assertion
```
Comment (alexanderlhicks) [inline src/Bluebell.lean:1]: This changes the public Bluebell import surface by removing the previous modules and exporting only `Assertion`, `OURA`, and `MeasureOnSpace`. Please document this as an intentional API-breaking refactor and provide migration/compatibility guidance for users of the base Iris formalism.

**Review by alexanderlhicks — CHANGES_REQUESTED** [review]
AI-generated review (human verification required): this review was produced by automated repository/paper comparison, Lean declaration inventory, `lake build`, and `#print axioms` inspection. It is not a substitute for maintainer judgment, and line-level/contextual interpretation should be checked by the PR author and maintainers.

Thank you for the substantial formalization work: the PR builds successfully and introduces the core model, assertion, and rule interfaces in a coherent structure. I recommend **request changes** until the admitted rules, paper-correspondence gaps, and statement differences below are addressed.

The main blocking issue is that 25 exported Bluebell rules still depend directly on `sorryAx`: `Sure_Merge`, `Sure_And_Star`, `Prod_Split`, `C_Frame`, `C_Unit_R`, `C_Assoc`, `C_And`, `Sure_Str_Convex`, `WP_Nest`, `WP_Conj`, `C_WP_Swap`, `Dist_Supp`, `Prod_Unsplit`, `C_Fuse`, `C_Swap`, `C_Sure_Proj`, `C_Sure_Proj_Many`, `C_Extract`, `C_Dist_Proj`, `RL_Unary`, `RL_Eq_Dist`, `RL_Convex`, `RL_Merge`, `RL_Sure_Merge`, and `Coupling`. `Dirac_Dup` is also not axiom-clean transitively because it depends on admitted `Sure_Merge`. Please prove the rules or explicitly narrow the PR scope, then validate every exported rule with `#print axioms`.

File: src/Bluebell/Assertion.lean (hunk 11 above)
Comment (alexanderlhicks) [inline src/Bluebell/Assertion.lean]: Blocking: beyond the unused parameters noted in my earlier review, the statement itself appears misformalized. In the conclusion, `(fun _ ↦ ix.1.2)` has type `(Var → Val) → Var`, so the existentially bound `μ` is a `PMF Var` — a distribution over variable *names* — and each `hasDistribution` conjunct asserts that the pushforward of the store measure under a *constant* function equals `μ`. That forces `μ = δ ix.1.2` and `μ = δ jy.1.2` simultaneously, which is unsatisfiable whenever the two variable names differ. The intended expressions are presumably `fun s ↦ s ix.1.2` / `fun s ↦ s jy.1.2` (compare `Coupling`, which correctly uses `fun s ↦ s x₁`).

Separately, `[Inhabited X]` occurs *before* `{X : Set (I × Var)}` is bound, so Lean auto-binds a fresh implicit type `X` that the later binder shadows — the hypothesis constrains a phantom type and does nothing.

Please fix the statement before attempting the proof; as written the `sorry` is admitting a false claim rather than deferring a true one.

File: src/Bluebell/Assertion.lean [hunk 16]
```diff
@@ -0,0 +1,2955 @@
...
+      · intro p hp; obtain ⟨⟨v, hv⟩, rfl⟩ := hp
+        have hKr : K v₀ ((⟨r, hr⟩ : ValidIndexedPSpPm I Var Val).val) := hK
+        rw [← val_eq_point (⟨r, hr⟩ : ValidIndexedPSpPm I Var Val)] at hKr
+        exact hKr
+
+-- ### C-UNIT-R
+
+theorem C_Unit_R {A : Type*} {i : I} {μ : PMF A} {E : (Var → Val) → A} :
+  E⟨i⟩ ~ μ ⊣⊢ 𝒞⟨μ⟩ v; ⌈(fun s ↦ E s = v)⟨i⟩⌉ := by
+    sorry -- TODO: Rule C-UNIT-L proof (spec not yet reviewed)
```
Comment (alexanderlhicks) [inline src/Bluebell/Assertion.lean]: This `sorry` is labeled `C-UNIT-L`, but the theorem is `C_Unit_R` (C-UNIT-L is proved above). The same mislabeling occurs at line 2670 (`Dist_Supp` labeled `DIRAC-SUPP`) and line 2901 (`RL_Merge` labeled `RL-SURE-MERGE`). These stale labels have already caused the automated review to mis-inventory the admitted rules; please correct them so the remaining-work list can be audited by grep.

File: src/Bluebell/OURA.lean [hunk 17]
```diff
@@ -0,0 +1,432 @@
...
+instance DiscreteCMRA.instOFE (α : Type*) [DiscreteCMRA α] : OFE α where
+  Equiv := equiv
+  Dist := fun _ ↦ equiv
+  dist_eqv := by simp [DiscreteCMRA.is_equiv]
+  equiv_dist := by simp
+  dist_lt := fun h _ ↦ h
+
+open Iris in
+/-- A discrete CMRA can be converted to a regular CMRA -/
+instance DiscreteCMRA.instCMRA {α : Type*} [DiscreteCMRA α] : CMRA α := {
```
Comment (alexanderlhicks) [inline src/Bluebell/OURA.lean:47]: `DiscreteCMRA.instCMRA` sets `ValidN := fun _ x ↦ valid x`, and `instOFE` sets `Dist := fun _ ↦ equiv`, so the resulting camera is discrete by construction — but no `Iris.CMRA.Discrete` (or `Iris.OFE.Discrete`) instance is ever registered. Both should hold definitionally and take only a couple of lines. Adding them would turn "the probability-space resource algebras are discrete cameras" into a statement actually checked by Lean, which is the form of the claim needed for the associated milestone.

**Review by alexanderlhicks — COMMENTED** [review]
AI-generated follow-up (human verification required): addendum to my earlier review, after re-validating all findings against the current head (965589e).

**Validation updates:**
- The count of admitted rules stands at **25** (the automated review's figure of 34 predates 309e5b4, which proved ~10 rules). The 25 rule names in my original review remain accurate, including `C_Unit_R` and `Dist_Supp`, whose in-code TODO labels name the wrong rules (see inline comments).
- `Dirac_Dup` is confirmed to be the only proved rule that transitively depends on an admitted one (the backward direction of `Sure_Merge`).
- The overlapping `FunLike` instances flagged by the automated review (`Assertion.lean:177`/`181`) are confirmed real: `bProp` is an `abbrev` of `Assertion`, so the second instance exactly duplicates the first.

**New findings (see inline comments):**
1. **`RL_Eq_Dist` appears misformalized, not merely unproven** — its conclusion ranges over distributions of variable *names* rather than stored values and is likely unprovable as stated, so the `sorry` is masking a false statement. The same theorem also has a phantom `[Inhabited X]` binder.
2. Several `sorry` TODO labels name the wrong rule, which has already misled automated audits of the admitted-rule inventory.
3. No `Iris.CMRA.Discrete` / `Iris.OFE.Discrete` instance is registered, even though the camera built from `DiscreteCMRA` is discrete by construction — a small addition that would make "the probability-space resource algebras are discrete cameras" a statement checked by Lean.

File: src/Bluebell/Assertion.lean (hunk 11 above)
Comment (Coda-Coda) [reply src/Bluebell/Assertion.lean]: Thanks very much! This was a mistake and has now been fixed in c2fe4dc (plus b6dbf4a and 556153c).
@alexanderlhicks RL-EQ-DIST is no longer blocked (as far as I know).

Comment (Coda-Coda) [reply src/Bluebell/Assertion.lean]: Thanks for catching this. Fixed in b6dbf4a and 556153c.

File: src/Bluebell/Assertion.lean (hunk 16 above)
Comment (Coda-Coda) [reply src/Bluebell/Assertion.lean]: Apologies - this has now been fixed, in dc3420f. Thanks, `grep` should now be able to accurately audit the remaining work within `src/Bluebell/Assertion.lean`.

File: src/Bluebell/Assertion.lean (hunk 1 above)
Comment (Coda-Coda) [reply src/Bluebell/Assertion.lean:1906]: This `sorry` indicates a proof yet to be completed, for the backwards direction of the entailment. It is intentionally there for now, and we will remove it once that direction has been proven in Lean.
I wouldn't call this "blocking".
